US07855297B2
N-(4-Isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) and butyl bromide (0.22 mL) were dissolved in DMF (3 mL), and sodium hydride (0.08 g) was added under ice-cooling. The mixture was stirred at the same temperature for 30 min and then at room temperature for 3 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give N-butyl-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.53 g).

reactant | N-(4-Isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCCC2=CC=CC=C12 | C20H23NO
reactant | butyl bromide | 0.22 mL | C(CCC)Br | C4H9Br
reactant | sodium hydride | 0.08 g | [H-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-butyl-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.53 g | C(CCC)N(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C24H31NO
